US07790885B2
1-[2-Fluoro-4-(2-phenoxycarbonylaminopyridin-4-yloxy)phenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester
Tetrahydrofuran (41 ml), acetonitrile (41 ml) and pyridine (2.07 g) was added to 1-[4-(2-aminopyridin-4-yloxy)-2-fluorophenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester (6.0 g, content 5.51 g), which was dissolved by stirring. Phenyl chloroformate (4.1 g) was added dropwise to this solution with cooling on ice at the internal temperature between 8.8° C. and 14.9° C. The reaction mixture was stirred at the same temperature for 2 hours and 9 minutes, then at room temperature for 3 hours and 5 minutes. The precipitate was collected by filtration, washed with a mixed solvent of tetrahydrofuran and acetonitrile (2:1, 16 ml), and dried under aeration to give the target title compound (6.39 g).

reactant | Tetrahydrofuran | 41 ml | O1CCCC1 | C4H8O
reactant | acetonitrile | 41 ml | C(C)#N | C2H3N
reactant | 1-[4-(2-aminopyridin-4-yloxy)-2-fluorophenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester | 6.0 g | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(NC1=C(C=C(C=C1)OC1=CC(=NC=C1)N)F)=O | C23H20FN3O4
reactant | Phenyl chloroformate | 4.1 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | pyridine | 2.07 g | N1=CC=CC=C1 | C5H5N
product | 1-[2-Fluoro-4-(2-phenoxycarbonylaminopyridin-4-yloxy)phenylcarbamoyl]cyclopropanecarboxylic acid benzyl ester | 6.39 g | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)OC1=CC=CC=C1)F)=O | C30H24FN3O6
